US06797718B2
Under a nitrogen atmosphere, anhydrous triethylamine (45.5 mL, 326 mmol) and 3-bromopyridine (12.9 mL, 138 mmol) were added to a solution of tert-butyl 2-(prop-2-ynyloxy)ethylcarbamate (26.0 g, 125 mmol) in anhydrous DMF (400 mL), and the reaction was heated at 80° C. Dichlorobis(triphenylphosphine)palladium (II) (1.76 g, 2.51 mmol) and copper (I) iodide (0.96 g, 5.02 mmol) were then added, and the reaction was heated at 80° C. for one hour. The volatiles were removed under reduced pressure, and the residual black oil was dissolved in ethyl acetate (500 mL). The solution was washed with dilute aqueous sodium bicarbonate (1×200 mL) and brine (2×100 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide a dark brown oil. The oil was purified by column chromatography on silica gel (350 g, eluting with 50:50 ethyl acetate:hexane), and the resulting dark oil was dissolved in hot methanol (200 mL) and treated with 10 g of activated charcoal. The mixture was filtered through a layer of CELITE filter aid, and the filtrate was treated with additional activated charcoal (10 g) and filtered in the same way to provide 25.4 g of tert-butyl {2-[3-(pyridin-3-yl)prop-2-ynyloxy]ethyl}carbamate as a light amber-colored oil.

reactant | triethylamine | 326 mmol, 45.5 mL | C(C)N(CC)CC | C6H15N
reactant | 3-bromopyridine | 138 mmol, 12.9 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | tert-butyl 2-(prop-2-ynyloxy)ethylcarbamate | 125 mmol, 26.0 g | C(C#C)OCCNC(OC(C)(C)C)=O | C10H17NO3
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
catalyst | Dichlorobis(triphenylphosphine)palladium | 2.51 mmol, 1.76 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 5.02 mmol, 0.96 g | [Cu]I
product | tert-butyl {2-[3-(pyridin-3-yl)prop-2-ynyloxy]ethyl}carbamate | 25.4 g | N1=CC(=CC=C1)C#CCOCCNC(OC(C)(C)C)=O | C15H20N2O3
